US08076491B2
4-((N-(4-fluorobenzyl)-4-methylphenylsulfonamido)methyl)-cyclohexanecarboxylic acid
Prepared as in example 5-11 from 1-(bromomethyl)-4-fluorobenzene, 4-(aminomethyl)cyclohexanecarboxylic acid and 4-methylbenzene-1-sulfonylchloride. MS (M+H, 420); 1H NMR (400 MHz, DMSO-d6): δ, ppm: 0.71 (m, 2H)), 0.95 (m, 2H), 1.15 (br, s, 1H), 1.51 (d, 2H), 1.76 (d, 2H), 2.0 (1H), 2.40 (s, 3H), 2.85 (m, 2H), 4.22 (s, 2H), 7.14 (m, 2H), 7.32 (m, 2H), 7.40 (m, 2H), 7.69 (m, 2H), 11.93 (br, s, 1H).

reactant | 1-(bromomethyl)-4-fluorobenzene | BrCC1=CC=C(C=C1)F | C7H6BrF
reactant | 4-(aminomethyl)cyclohexanecarboxylic acid | NCC1CCC(CC1)C(=O)O | C8H15NO2
reactant | 4-methylbenzene-1-sulfonylchloride | CC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO2S
product | 4-((N-(4-fluorobenzyl)-4-methylphenylsulfonamido)methyl)-cyclohexanecarboxylic acid | FC1=CC=C(CN(S(=O)(=O)C2=CC=C(C=C2)C)CC2CCC(CC2)C(=O)O)C=C1 | C22H26FNO4S
